US09284323B2
Preparation of 3-methyl-6-(methylsulfonyl)-3,4-dihydronaphthalen-1(2H)-one:
A mixture of 6-bromo-3-methyl-3,4-dihydronaphthalen-1(2H)-one (10 g, 41.8 mmol) methanesulfinic acid, sodium salt (16.7 g, 163.1 mmol), copper(I) iodide (3.18 g, 16.7 mmol), cesium carbonate (6.81 g, 20.9 mmol) and L-proline (3.85 g, 33.4 mmol) in DMSO (200 mL) was heated at 100° C., protected from light. After 3.5 hours, copper(I) iodide (1.59 g) and L-proline (1.9 g) were added and the reaction continued for 5 hours, and then stirred overnight at room temperature. The mixture was diluted with ice/water (200 mL) and extracted with ethyl ether (3×), ethyl acetate (3×). The combined organic layer was washed with brine, dried (MgSO4), filtered, and purified by flash column chromatography (silica gel, 30 to 60% ethyl acetate/hexanes) to give the desired product. 1H NMR (400 MHz, CDCl3) δ 8.20 (d, J=8.1 Hz, 1H), 7.87 (s, 1H), 7.86 (d, J=7.7 Hz, 1H), 3.10-3.00 (m, 1H), 3.08 (s, 3H), 2.86-2.71 (m, 2H), 2.48-2.31 (m, 2H), 1.19 (d, J=6.0 Hz, 3H).

reactant | 6-bromo-3-methyl-3,4-dihydronaphthalen-1(2H)-one | 41.8 mmol, 10 g | BrC=1C=C2CC(CC(C2=CC1)=O)C | C11H11BrO
reactant | sodium | 163.1 mmol, 16.7 g | [Na] | Na
reactant | cesium carbonate | 20.9 mmol, 6.81 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | L-proline | 33.4 mmol, 3.85 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | L-proline | 1.9 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | DMSO | 200 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 16.7 mmol, 3.18 g | [Cu]I
catalyst | copper(I) iodide | 1.59 g | [Cu]I
product | 3-methyl-6-(methylsulfonyl)-3,4-dihydronaphthalen-1(2H)-one | CC1CC(C2=CC=C(C=C2C1)S(=O)(=O)C)=O | C12H14O3S
